US09145387B2
Step 1: 2,5-dichloro-4-(methylthio)pyrimidine (Intermediate 1)
To a solution of 2,4,5-trichloropyrimidine (5 g, 27.32 mmol) in THF:water (1:1, 40 mL), was added sodium thiomethoxide (2.15 g, 30.01 mmol) at 0° C., and the mixture was stirred at rt for 4 h. TLC showed completion of starting material and formation of a slightly polar spot (TLC system: hexane charred in iodine). The reaction mixture was concentrated, water (20 ml) was added, and the product was extracted with ethyl acetate (2×20 ml). The organic layer was dried over sodium sulfate and concentrated to afford the desired compound as a white solid (5 g, 94.8%). MS m/z: 195.2 (ES+, M+H).

reactant | 2,4,5-trichloropyrimidine | 27.32 mmol, 5 g | ClC1=NC=C(C(=N1)Cl)Cl | C4HCl3N2
reactant | sodium thiomethoxide | 30.01 mmol, 2.15 g | C[S-].[Na+]
reactant | hexane | CCCCCC | C6H14
solvent | THF water | 40 mL | C1CCOC1.O
solvent | iodine | II | I2
product | 2,5-dichloro-4-(methylthio)pyrimidine | 5 g, 94.8% | ClC1=NC=C(C(=N1)SC)Cl | C5H4Cl2N2S
